US07872000B2
3-Chloro-5,6,7,8,9,10-hexahydrocycloocta[c]pyridazine (1.36 g) was treated with anhydrous pyridine (10 mL) and anhydrous hydrazine (3 mL) at 100° C. for 5.5 h. The solvent was removed under vacuum and the residue was partitioned between chloroform and saturated aqueous potassium carbonate solution. The organic layer was dried over anhydrous sodium sulfate and concentrated under vacuum to provide 3-hydrazinyl-5,6,7,8,9,10-hexahydrocycloocta[c]pyridazine; 1H NMR (CDCl3, 300 MHz) 6.71 (s, 1H), 3.01 (m, 2H), 2.68 (m, 2H), 1.70-1.85 (m, 4H), 1.40 (m, 4H) ppm; MS (ES) 193 (M+H).

reactant | 3-Chloro-5,6,7,8,9,10-hexahydrocycloocta[c]pyridazine | 1.36 g | ClC1=CC2=C(N=N1)CCCCCC2 | C10H13ClN2
reactant | hydrazine | 3 mL | NN | H4N2
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 3-hydrazinyl-5,6,7,8,9,10-hexahydrocycloocta[c]pyridazine | N(N)C1=CC2=C(N=N1)CCCCCC2 | C10H16N4
